US04816475
2-(4,4'-difluorobenzhydrylidene)-1,3,5-trithiane-5-oxide (compound No. 128)
To a 30 ml of dichloromethane of 1.5 g of 2-(4,4'-difluorobenzhydrylidene)-1,3,5-trithiane was added 0.77 g of m-chloroperbenzoic acid in small portions at 0° C., and the resulting mixture was stirred overnight. After completion of the reaction, the reaction mixture was poured into ice-water and extracted with dichloromethane. Usual work up gave crude solid, which was purified by a silica gel column chromatography (chloroform:hexane=3:1) to obtain 1.2 g of white crystals.

reactant | 2-(4,4'-difluorobenzhydrylidene)-1,3,5-trithiane | 1.5 g | FC1=CC=C(C(C2=CC=C(C=C2)F)=C2SCSCS2)C=C1 | C16H12F2S3
reactant | m-chloroperbenzoic acid | 0.77 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 2-(4,4'-difluorobenzhydrylidene)-1,3,5-trithiane-5-oxide | 1.2 g, Yield 76.4% | FC1=CC=C(C(C2=CC=C(C=C2)F)=C2SCS(CS2)=O)C=C1 | C16H12F2OS3
